US07825253B2
N-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-4-fluorobenzenesulfonamide
The title compound, MS: m/e=412.4 (M+H+), was prepared in accordance with the general method of example 39 from N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine and 4-fluorobenzenesulfonylchloride.

reactant | N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)N | C15H15N3O
reactant | 4-fluorobenzenesulfonylchloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-4-fluorobenzenesulfonamide | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C1=CC=C(C=C1)F | C21H18FN3O3S
